US04180669
2-(N-Methyl-1,2,3,6-tetrahydro-4-pyridyl)-5-(1,2-dimethylpropyl) resorcinol hydrochloride
5-(1,2-Dimethylpropyl) resorcinol (15.7 g) and N-methyl-4-piperidone (9.8 g) were dissolved in 35 ml acetic acid and treated with HCl gas as described in Example VI giving 18.8 g of product, m.p. 241°-243°.

reactant | 5-(1,2-Dimethylpropyl) resorcinol | 15.7 g | CC(C(C)C)C=1C=C(C=C(O)C1)O | C11H16O2
reactant | N-methyl-4-piperidone | 9.8 g | CN1CCC(CC1)=O | C6H11NO
reactant | HCl | Cl | ClH
solvent | acetic acid | 35 ml | C(C)(=O)O | C2H4O2
product | 2-(N-Methyl-1,2,3,6-tetrahydro-4-pyridyl)-5-(1,2-dimethylpropyl) resorcinol hydrochloride | 18.8 g | Cl.CN1CCC(=CC1)C1=C(O)C=C(C=C1O)C(C(C)C)C | InChI=1S/C17H25NO2.ClH/c1-11(2)12(3)14-9-15(19)17(16(20)10-14)13-5-7-18(4)8-6-13;/h5,9-12,19-20H,6-8H2,1-4H3;1H
